US03992539
Preparation of 3-Acetoxymethyl-s-triazolo-[3,4-a]-isoquinoline: ##SPC17##
1-Hydrazinoisoquinoline was heated with excess acetoxyglycolic acid. The residue was cooled, dissolved in chloroform and washed with sodium carbonate solution. The chloroform extracts were dried and concentrated invacuo to provide the crude product which was purified by recrystallization from benzene.

reactant | 1-Hydrazinoisoquinoline | N(N)C1=NC=CC2=CC=CC=C12 | C9H9N3
reactant | acetoxyglycolic acid | C(C)(=O)OC(C(=O)O)O | C4H6O5
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Acetoxymethyl-s-triazolo-[3,4-a]-isoquinoline | C(C)(=O)OCC1=NN=C2N1C=CC1=CC=CC=C21 | C13H11N3O2
